US04055595
The process of Example 17 is repeated using (±)-methyl 2-(6-methoxy-2-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionate, obtained as an oil in Example 43, as starting material except that the potassium hydroxide is replaced by 4.4 N aqueous sodium hydroxide and the reaction is carried out for 21/2 hours to give (±)-2-(6-methoxy-2-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionic acid, m.p. 117°-119° C. (from light petroleum b.p. 60°-80° C.).

reactant | (±)-methyl 2-(6-methoxy-2-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionate | COC=1C=C2C=CC(=CC2=CC1)COC(C(=O)OC)(C(F)(F)F)C | C17H17F3O4
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium hydroxide | 4.4 N | [OH-].[Na+]
product | (±)-2-(6-methoxy-2-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionic acid | COC=1C=C2C=CC(=CC2=CC1)COC(C(=O)O)(C(F)(F)F)C | C16H15F3O4
